US05017573
To a mixture of tris(hydroxymethyl)nitromethane (118.9 g), sodium bicarbonate (40 g) and water (1000 ml), N-benzyl-N'-methylethylenediamine (123 g) is added, and the reaction mixture is heated at about 50° C. for 2 hours. After cooling, the solution is extracted with dichloromethane, and the organic layer is washed with saturated aqueous sodium chloride and dried over magnesium sulfate. The solvent is evaporated under reduced-pressure to give 1-benzyl-6-hydroxymethyl-4-methyl-6-nitrohexahydro-1H-1,4-diazepine as an oil.

reactant | tris(hydroxymethyl)nitromethane | 118.9 g | OCC([N+](=O)[O-])(CO)CO | C4H9NO5
reactant | sodium bicarbonate | 40 g | C([O-])(O)=O.[Na+]
reactant | N-benzyl-N'-methylethylenediamine | 123 g | C(C1=CC=CC=C1)NCCNC | C10H16N2
solvent | water | 1000 ml | O | H2O
product | 1-benzyl-6-hydroxymethyl-4-methyl-6-nitrohexahydro-1H-1,4-diazepine | C(C1=CC=CC=C1)N1CCN(CC(C1)([N+](=O)[O-])CO)C | C14H21N3O3
